* SPICE Netlist for the given schematic

* Voltage Source
Vin 4 0 DC 0

* Resistors
RS 4 2 1000  ; Replace with actual resistance value
RZ 2 5 1000  ; Replace with actual resistance value
RL 5 6 1000  ; Replace with actual resistance value

* Capacitors
CE 7 2 1u    ; Replace with actual capacitance value
CC 3 5 1u    ; Replace with actual capacitance value
CL 6 0 1u    ; Replace with actual capacitance value

* NMOS Transistor
M9 5 2 0 0 NMOS_LVT

* Voltage Supply
VDD 3 0 DC 5  ; Replace with actual voltage value

* Models (Add actual model parameters)
.model NMOS_LVT NMOS (LEVEL=1 VTO=0.7 KP=200u)

.end